US09278910B2
To a stirred solution of 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbonitrile INT-46 (1.22 g, 3.51 mmol) in THF (20 mL) at 0° C. was added diisobutylaluminum hydride (12.3 mL, 12.3 mmol, 1 M in toluene). After 2 h the reaction mixture was poured onto Rochelle's salt (7.91 g, 28.0 mmol) in water (100 mL) and EA (50 mL) and stirred for 1 h. The layers were split and the aqueous layer was further extracted with EA (2×30 mL). The combined organics were washed with brine (20 mL) dried over MgSO4 and evaporated. The crude material was purified by chromatography (EA/isohexanes) to afford 571 mg (46%) of 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbaldehyde INT-47 as a brown oil. LCMS-ESI (m/z) calculated for C22H26N2O2: 350; found 351 [M+H]−, tR=2.34 min (Method 5).

reactant | 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbonitrile | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)C#N)C=C1 | C22H25N3O
reactant | diisobutylaluminum hydride | 12.3 mmol, 1 M, 12.3 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | EA | 50 mL | CC(OCC)=O | C4H8O2
product | 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbaldehyde | 571 mg, 46% | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)C=O)C=C1 | C22H26N2O2
